US07148234B2
STEP 1. 2-{4-[(5,6-Dimethyl-3-nitro-2-pyridinyl)amino]phenyl}ethanol
A mixture of 2-chloro-5,6-dimethyl-3-nitropyridine (Godard, A.; Rocca, P.; Pomel, V.; et al. J. Organomet. Chem., 1996, 517, 25.; Rocca, P.; Marsais, F.; Godard, A.; et al. Tetrahedron Lett., 1993, 34, 2937., 3.3 g, 17.5 mmol), 4-aminophenylethyl alcohol (3.6 g, 26.3 mmol) and 2,6-lutidine (3.7 mL) in toluene (80 mL) was stirred under reflux temperature for 19 h. The mixture was diluted with ethyl acetate (100 mL) and washed with IN aqueous NaOH (50 mL) and brine (50 mL). The organic layer was dried (Na2SO4), and concentrated. Purification by flash column chromatography on silica gel eluting with hexane/ethyl acetate (1:1) to afford 1.8 g (37%) of the title compound as orange solids: 1H-NMR (CDCl3) δ 8.24 (1H, br.s), 7.68 (2H, d, J=8.6 Hz), 7.24 (2H, d, J=8.6 Hz), 3.88 (2H, dt, J=6.1, 7.6 Hz), 2.88 (2H, t, J=7.6 Hz), 2.49 (3H, s), 2.26 (3H, s), 1.43 (1H, t, J=6.1 Hz).

reactant | 2-chloro-5,6-dimethyl-3-nitropyridine | ClC1=NC(=C(C=C1[N+](=O)[O-])C)C | C7H7ClN2O2
reactant | 4-aminophenylethyl alcohol | 26.3 mmol, 3.6 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | 2,6-lutidine | 3.7 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-{4-[(5,6-Dimethyl-3-nitro-2-pyridinyl)amino]phenyl}ethanol | 1.8 g, 37% | CC=1C=C(C(=NC1C)NC1=CC=C(C=C1)CCO)[N+](=O)[O-] | C15H17N3O3
